US09403798B2
(S)-4-[4-(4-Fluorophenyl)-5-hydroxy-5,6-dihydropyridin-1(2H)-yl]-1,3,5-triazin-2(1H)-one
To an acetic acid (1.6 mL)-water (0.30 mL) solution of (R)-1-(4-chloro-1,3,5-triazin-2-yl)-4-(4-fluorophenyl)-1,2,3,6-tetrahydropyridin-3-ol (155 mg, 0.505 mmol) synthesized in Reference Synthesis Example 332a, sodium acetate (155 mg, 1.89 mmol) was added and the resultant mixture was stirred at 90° C. for 2 hours. After completion of the reaction, water was added to the reaction solution and the resultant mixture was cooled to 0° C. The precipitated solid was collected by filtration and the solid was washed with water to obtain a compound (122 mg, yield 77%) of Reference Synthesis Example 333a as the title compound.

reactant | acetic acid | 1.6 mL | C(C)(=O)O | C2H4O2
reactant | (R)-1-(4-chloro-1,3,5-triazin-2-yl)-4-(4-fluorophenyl)-1,2,3,6-tetrahydropyridin-3-ol | 0.505 mmol, 155 mg | ClC1=NC(=NC=N1)N1C[C@@H](C(=CC1)C1=CC=C(C=C1)F)O | C14H12ClFN4O
reactant | sodium acetate | 1.89 mmol, 155 mg | C(C)(=O)[O-].[Na+]
solvent | water | O | H2O
solvent | water | 0.30 mL | O | H2O
product | (S)-4-[4-(4-Fluorophenyl)-5-hydroxy-5,6-dihydropyridin-1(2H)-yl]-1,3,5-triazin-2(1H)-one | FC1=CC=C(C=C1)C1=CCN(C[C@H]1O)C1=NC(NC=N1)=O | C14H13FN4O2
